US05362912
2-(Methylaminomethyl)-pyridine
A solution of 2-picolinaldehyde (107.11 g, 1 mol, a severe irritant) in 100 mL of methanol was added to 50 mL of methylamine, and the solution was shaken under N2 for 2 hours. Pre-wetted 10% Pd/C (2.5 g) in 20 mL MeOH was added to the first solution, and the mixture was shaken under 4 arm of H2 for 5 hours. The solution was filtered, the filter cake washed with methanol (2×100 mL), and the solution was filtered through a nylon membrane filter and concentrated in vacuo. Toluene was added, and the solution was concentrated in vacuo to afford 122 g of the title product as an orange oil; bp 80°-82° C.@8 mm Hg. NMR (CDCl3) δ:2.00 (bs,1H), 2.49 (s,3H), 3.88 (s,2H), 7.18 (m, 1H), 7.32 (d,1H), 7.65 (dt,1H), 8.56 (m, 1H).

reactant | 2-picolinaldehyde | N1=C(C=CC=C1)C=O | C6H5NO
reactant | methylamine | 50 mL | CN | CH5N
solvent | methanol | 100 mL | CO | CH4O
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Pd/C | 2.5 g | [Pd] | Pd
product | 2-(Methylaminomethyl)-pyridine | 122 g | CNCC1=NC=CC=C1 | C7H10N2
